US04564694
Next, 0.82 g of Li[AlH4 ] was added to 50 ml of dried (C2H5)2O, and the resulting mixture was stirred. Thereto was gradually added 5 g of 4-[p-(2-hydroxycarbonylethyl)phenyl]pentylcyclohexane. Thereafter the thus obtained mixture was stirred for 5 hours, and filtered. The (C2H5)2O was distilled off from the filtrate, and the residue was recrystallized from n--C6H14 to obtain 4-[p-(3-hydroxypropyl)phenyl]pentylcyclohexane. The melting point of this compound was 70.7° to 72.5° C. To a mixture of 3.6 g of SOCl2, one drop of pyridine and 50 ml of benzene was added 4.3 g of the 4-[p-(3-hydroxypropyl)phenyl]pentylcyclohexane obtained above, and the resulting mixture was refluxed for 5 hours. Thereafter, the surplus SOCl2 was distilled off to obtain 4-[p-(3-chloropropyl)phenyl]pentylcyclohexane. The melting point of this compound was 70.7° to 72.5° C.

reactant | SOCl2 | 3.6 g | O=S(Cl)Cl | Cl2OS
reactant | 4-[p-(3-hydroxypropyl)phenyl]pentylcyclohexane | 4.3 g | OCCCC1=CC=C(C=C1)C(CCCC1CCCCC1)C | C20H32O
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-[p-(3-chloropropyl)phenyl]pentylcyclohexane | ClCCCC1=CC=C(C=C1)C(CCCC1CCCCC1)C | C20H31Cl
